data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4226,4834,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([NH+:12]=[C:13]([C:14]#[N:15])[C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14]#[N:15])([C:16]([CH3:17])=[O:18])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:19](=[O:20])[O:21][CH3:22],water,298.15,27.3559308287393,-2.4901256164467336
1869,2073,[CH2-:18][N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]2=[C:10]([C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:21]([C:22]#[N:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:19]([CH3:20])[CH2:18]2,water,298.15,11.660754414034926,-38.13895117831581
3969,4542,[CH3:10][C:11](=[O:12])[CH:13]=[NH+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:13]([C:11]([CH3:10])=[O:12])[NH:14][N:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,32.23606538138812,0.3473178205154483
2138,2372,[CH2:16]=[N+:17]([CH3:18])[C-:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:17]([CH3:18])[CH2:16]2,water,298.15,14.57839479130283,-14.300196203566058
593,650,[CH3:14][C-:15]([CH3:16])[N+:17]#[N:18].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([CH2:9][CH2:10][CH2:11][CH2:12][CH2:13]1)[N:18]=[N:17][C:15]2([CH3:14])[CH3:16],water,298.15,22.18163246052694,-42.11874288878444
3800,4350,[CH2:10]=[N+:11]([CH3:12])[C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH2:10][N:11]([CH3:12])[C:13]1([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,14.43751331225674,-29.07043625048068
2515,2794,[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][c:23]1[nH+:24][c-:25](-[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[c:32](=[O:33])[o:34]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:23]1([CH3:22])[NH:24][C:25]2([c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[C:32](=[O:33])[O:34]1,water,298.15,22.88963451054407,-10.006952721306302
815,884,[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([Cl:7])[Cl:8].[CH3:9][C:10](=[O:11])[C-:12]([C:13]#[N:14])[N+:15]([CH3:16])=[C:17]([C:18]#[N:19])[C:20]#[N:21]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([Cl:7])([Cl:8])[C:12]([C:10]([CH3:9])=[O:11])([C:13]#[N:14])[N:15]([CH3:16])[C:17]1([C:18]#[N:19])[C:20]#[N:21],water,298.15,32.06376176557816,-4.4111361603462615
4038,4623,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C-:13]([O+:14]=[C:15]([CH3:16])[CH3:17])[C:18](=[O:19])[O:20][CH3:21]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:18](=[O:19])[O:20][CH3:21])[O:14][C:15]2([CH3:16])[CH3:17],water,298.15,11.228414837683184,-37.36373745927464
73,84,[CH3:1][O:2][C:3]#[C:4][Cl:5].[CH:6]#[N+:7][C-:8]([C:9]([CH3:10])=[O:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[C:8]([C:9]([CH3:10])=[O:11])([C:12](=[O:13])[NH:14][CH3:15])[N:7]=[CH:6]1,water,298.15,22.232592237225763,-69.7056473178728
2124,2357,[CH3:15][O:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29]([CH3:30])=[O:31].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:29]([CH3:30])=[O:31])[O:20][C:21]2([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,24.83981301189253,-10.90177756919855
1648,1820,[CH3:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[o:25]1.[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:14]1([C:12]([CH3:11])=[O:13])[NH:15][C:16]2([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[C:23](=[O:24])[O:25]1,water,298.15,25.36839117253948,6.682633370504153
